US05364860
3 g of 3-[1-(3,5-dichlorophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-3-hydroxy-2-(3-pyridyl)propionitrile are suspended in 20 ml of dichloromethane. After the addition of 1.05 ml of trifluoroacetic acid (2 eq), a yellow solution is obtained which becomes bright yellow with a rise in temperature after the addition of 1.44 ml of trifluoroacetic anhydride (1.5 eq). This solution is stirred for one hour and water is then added; the organic phase is decanted, washed with a 10% solution of sodium bicarbonate and then water and dried over magnesium sulfate. After concentration under vacuum, the solid obtained is washed with ether and dried to give 2.6 g of 3-[1-(3,5-dichlorophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-2-(3-pyridyl)prop-2-enenitrile in the form of a bright yellow solid melting at 261° C. Yield 91%.

reactant | 3-[1-(3,5-dichlorophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-3-hydroxy-2-(3-pyridyl)propionitrile | 3 g | ClC=1C=C(C=C(C1)Cl)N1C(C(=CC2=CC=CN=C12)C(C(C#N)C=1C=NC=CC1)O)=O | C22H14Cl2N4O2
reactant | trifluoroacetic acid | 1.05 ml, 2 eq | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic anhydride | 1.44 ml, 1.5 eq | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-[1-(3,5-dichlorophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-2-(3-pyridyl)prop-2-enenitrile | 2.6 g, Yield 91% | ClC=1C=C(C=C(C1)Cl)N1C(C(=CC2=CC=CN=C12)C=C(C#N)C=1C=NC=CC1)=O | C22H12Cl2N4O
